US06002008
N-{4-[(3-Chloro-4-fluorophenyl)amino]-3-cyano-6-quinolinyl}-4-morpholino-2-butenamide
Added 500 μl (4.80 mmol) 4-bromo-but-2-enoyl chloride to a solution of 1.50 g (4.80 mmol) 6-amino-4-[(3-chloro-4-fluorophenyl)amino]-3-quinolinecarbonitrile and 836 μl (4.80 mmol) N,N-diisopropylethylamine in 50 ml THF at 0° C. under N2. At 1 hour added the mixture dropwise to 2.09 ml (24 mmol) morpholine in 10 ml THF at 0° C. Removed ice bath upon complete addition and at 3 hours, poured reaction onto a mixture of ice and saturated sodium bicarbonate. Extracted with ethyl acetate, dried organic layer with brine and sodium sulfate, and stripped solvent. Loaded compound onto a column of silica gel, eluted with 12% methanol/ethyl acetate, stripped solvent from desired fractions, and dried in vacuo, giving 798 mg of yellow solid: mass spectrum (electrospray m/e): M+H=466.4, 468.4.

reactant | 4-bromo-but-2-enoyl chloride | 4.80 mmol, 500 μl | BrCC=CC(=O)Cl | C4H4BrClO
reactant | 6-amino-4-[(3-chloro-4-fluorophenyl)amino]-3-quinolinecarbonitrile | 4.80 mmol, 1.50 g | NC=1C=C2C(=C(C=NC2=CC1)C#N)NC1=CC(=C(C=C1)F)Cl | C16H10ClFN4
reactant | N,N-diisopropylethylamine | 4.80 mmol, 836 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | morpholine | 24 mmol, 2.09 ml | N1CCOCC1 | C4H9NO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | N-{4-[(3-Chloro-4-fluorophenyl)amino]-3-cyano-6-quinolinyl}-4-morpholino-2-butenamide | 798 mg | ClC=1C=C(C=CC1F)NC1=C(C=NC2=CC=C(C=C12)NC(C=CCN1CCOCC1)=O)C#N | C24H21ClFN5O2
